US09079865B2
A 50-mL, 3-necked, round-bottomed flask was charged with a solution of (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (0.20 g) in CH2Cl2 (10 mL). Piperidin-4-ol (0.07 g, 1.2 eq.) was added and the solution was cooled to −60° C. for the addition of T3P (propyl phosphonic anhydride) (0.40 mL, 1.2 eq.) and DIPEA (0.19 mL, 2.0 eq.). The reaction mixture was stirred for 30 min before being poured into water (50 mL) and extracted with CH2Cl2 (2×50 mL). The combined organic layers were washed with aqueous saturated brine (50 mL), dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure (25° C., 20 mmHg). Purification by column chromatography using silica 60/120 and MeOH:CH2Cl2 as mobile phase. (desired compound started eluting using 3.0% MeOH/CH2Cl2) afforded 0.025 g (yield: 10%) of (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-1-(4-hydroxypiperidin-1-yl)prop-2-en-1-one. 1H NMR (400 MHz, CDCl3) δ, 8.75 (s, 1H), 8.58 (s, 2H), 7.93 (s, 1H), 7.08-7.11 (d, J=10.4 Hz, 1H), 6.01-6.04 (d, J=10.4 Hz, 1H), 4.02-4.14 (m, 1H), 3.98-4.01 (m, 1H), 3.78-3.85 (m, 1H), 3.47-3.52 (s, 1H), 3.32-3.38 (s, 1H), 1.96 (s, 1H), 1.83 (s, 1H), 1.27 (s, 1H), 0.90 (s, 1H); LCMS for Chemical Formula: C18H17F6N4O2 [M+H]+ 435.34. found 435.24 (RT 2.408 min, purity: 89.6%).

reactant | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.20 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O)(F)F | C13H7F6N3O2
reactant | Piperidin-4-ol | 0.07 g, 1.2 eq. | N1CCC(CC1)O | C5H11NO
reactant | T3P | 0.40 mL, 1.2 eq. | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIPEA | 0.19 mL, 2.0 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 50 mL | O | H2O
product | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-1-(4-hydroxypiperidin-1-yl)prop-2-en-1-one | 0.025 g, yield: 10% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)N1CCC(CC1)O)(F)F | C18H16F6N4O2
